US08134013B2
15-a) Methyl 4-(2-tert-butoxycarbonyl-1-hydroxyethyl)benzoate
Diisopropylamine (0.55 mL, 3.9 mmol) was dissolved in dry tetrahydrofuran (10 mL), and 2.66 M n-butyllithium in hexane (1.4 mL, 3.6 mmol) was added dropwise at 0° C. The reaction solution was stirred at 0° C. for 10 minutes and cooled to −78° C., and after dropwise addition of tert-butyl acetate (0.58 mL, 4.3 mmol), stirred at −78° C. for 30 minutes. Methyl 4-formylbenzoate (0.70 g, 4.3 mmol) in tetrahydrofuran (6 mL) was added dropwise at −78° C. over 5 minutes, and the reaction solution was stirred at −78° C. for 10 minutes and at 0° C. for 1 hour, then adjusted to pH 7 with acetic acid (0.43 mL, 7.5 mmol) and returned to room temperature over 12 hours. The solution was concentrated by evaporating tetrahydrofuran under reduced pressure, and ethyl acetate and water were added. The organic layer was separated and dried under reduced pressure to dryness to give 1.17 g of the crude desired product. The crude desired product was purified by silica gel column chromatography (Merck silica gel 60, 22 g, n-hexane-ethyl acetate 4:1) to give 0.84 g of the desired product (yield 84%).

reactant | Diisopropylamine | 3.9 mmol, 0.55 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.66 M | C(CCC)[Li]
reactant | hexane | 3.6 mmol, 1.4 mL | CCCCCC | C6H14
reactant | tert-butyl acetate | 4.3 mmol, 0.58 mL | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | Methyl 4-formylbenzoate | 4.3 mmol, 0.70 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | acetic acid | 7.5 mmol, 0.43 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | Methyl 4-(2-tert-butoxycarbonyl-1-hydroxyethyl)benzoate | 0.84 g, yield 84% | C(C)(C)(C)OC(=O)CC(O)C1=CC=C(C(=O)OC)C=C1 | C15H20O5
